US05631373
1-Bromo-2,5-difluoro-4-nitrobenzene:
To a stirred solution of 1-bromo-2,5-difluorobenzene (1.000 g, 5.181 mmol, Aldrich, used as received) in conc. H2SO4 (8.0 mL) at 0° C., KNO3 (0.525 g, 5.19 mmol) was added in one lot. The resulting yellow solution was allowed to warm to 28° C. and stirred at 28° C. overnight. It was then poured into ice (80 g) and extracted with ethyl acetate (75 mL). The ethyl acetate was dried over anhydrous Na2SO4, removed under vacuum, and the resulting white solid was dried further under vacuum to afford 1.102 g (89%) of the title compound as a white powder; m.p. 58°-60° C.; 1H NMR (CDCl3): δ7.591 (dd, 1H, J1 =9.6 Hz, J2 =5.4 Hz), 7.891 (t, 1H, J=6.9 Hz).

reactant | 1-bromo-2,5-difluorobenzene | 5.181 mmol, 1.000 g | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | KNO3 | 5.19 mmol, 0.525 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 8.0 mL | OS(=O)(=O)O | H2O4S
product | 1-Bromo-2,5-difluoro-4-nitrobenzene | 1.102 g, 89% | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C6H2BrF2NO2
